US04304728
3-Bromo-4-oxo-6-phenyl-4H-pyran-2-carboxylic acid
Methyl 3-bromo-4-oxo-6-phenyl-4H-pyran-2-carboxylate (587 g) was added to a stirred solution of dry sodium iodide (315 g) in dry methyl ethyl ketone (8 l). The solution was heated under reflux for 5 minutes, then pyridine (152 ml) was added and heating was continued for 31/2 hours. The mixture was cooled, the solid product was dissolved in water (2 l) and the solution was washed with dichloromethane and filtered. The filtrate was diluted to 10 l and acidified with 5 M hydrochloric acid (760 ml) to precipitate the title product (mp 247° C. with decomposition).

reactant | Methyl 3-bromo-4-oxo-6-phenyl-4H-pyran-2-carboxylate | 587 g | BrC1=C(OC(=CC1=O)C1=CC=CC=C1)C(=O)OC | C13H9BrO4
reactant | sodium iodide | 315 g | [I-].[Na+]
reactant | pyridine | 152 ml | N1=CC=CC=C1 | C5H5N
solvent | methyl ethyl ketone | 8 l | C(C)C(=O)C | C4H8O
solvent | water | 2 l | O | H2O
product | 3-Bromo-4-oxo-6-phenyl-4H-pyran-2-carboxylic acid | BrC1=C(OC(=CC1=O)C1=CC=CC=C1)C(=O)O | C12H7BrO4
